US04927837
Example 7: 1-benzoyloxy-3-piperidine carbaldehyde (O-methyloxime)
4 g of 3-piperidine carbaldehyde O-methyloxime hydrochloride prepared as in Example 2 and 5.35 g of potassium carbonate are added to 6.8 g of an 80% solution of benzoyl peroxide in 50 cm3 of chloroform. After 16 hours of agitation at ambient temperature, and filtering, the solvent is evaporated off and purified by chromatography on silica (eluent: cyclohexane-ethyl acetate 8:2). 4.3 g of oily product is obtained which solidifies during cooling. m.p.=38°-40° C.

reactant | 3-piperidine carbaldehyde O-methyloxime hydrochloride | 4 g | Cl.CON=CC1CNCCC1
reactant | potassium carbonate | 5.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | chloroform | 50 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 1-benzoyloxy-3-piperidine carbaldehyde (O-methyloxime) | 4.3 g | CON=CC1CN(CCC1)OC(C1=CC=CC=C1)=O | C14H18N2O3
